US04645530
2-[[(4-chloro-6-methoxypyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid ethyl ester
To 1.0 g of 2-amino-4-chloro-6-methoxypyrimidine suspended in 25 ml of dry CH2Cl2 was added 1.53 g of ethyl 2-(isocyanatosulfonyl)benzoate (prepared by procedures taught in U.S. Pat. No. 4,305,884). The reaction mixture was stirred at ambient temperature for three days. The solvent was stripped and the product was recrystallized from butyl chloride to give a white solid with m.p. 198°-201°.

reactant | 2-amino-4-chloro-6-methoxypyrimidine | 1.0 g | NC1=NC(=CC(=N1)Cl)OC | C5H6ClN3O
reactant | ethyl 2-(isocyanatosulfonyl)benzoate | 1.53 g | N(=C=O)S(=O)(=O)C1=C(C(=O)OCC)C=CC=C1 | C10H9NO5S
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-[[(4-chloro-6-methoxypyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid ethyl ester | C(C)OC(C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)Cl)OC)=O | C15H15ClN4O6S
